US05808062
4-Hydroxy-3-[(2-phenylethyl)thio]-6-[4-(3-phenylpropoxy)phenyl]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-(3-phenylpropoxy)acetophenone (1.28 g, 5.06 mmol), lithium bis(trimethylsilyl)amide (0.930 g, 5.56 mmol), chlorotrimethylsilane (0.705 mL, 5.56 mmol), THF (57 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. 139°-142° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.04 (m, 2 H), 2.84 (m, 4 H), 2.98 (t, 2 H), 4.40 (t, 2 H), 6.68 (s, 1 H), 7.18 (m, 12 H), 7.75 (d, 2 H), 11.86 (bs, 1 H).

reactant | 4'-(3-phenylpropoxy)acetophenone | 5.06 mmol, 1.28 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)C(C)=O | C17H18O2
reactant | lithium bis(trimethylsilyl)amide | 5.56 mmol, 0.930 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 5.56 mmol, 0.705 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 57 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-3-[(2-phenylethyl)thio]-6-[4-(3-phenylpropoxy)phenyl]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=C(C=C1)OCCCC1=CC=CC=C1)=O)SCCC1=CC=CC=C1 | C28H26O4S
